US08809525B2
6-(3-Fluorophenoxy)-5-phenyl-1,2,4-triazin-3-amine (78 mg, 23%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 3-fluoro phenol (0.27 g, 2.39 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-fluoro phenol | 2.39 mmol, 0.27 g | FC=1C=C(C=CC1)O | C6H5FO
product | 6-(3-Fluorophenoxy)-5-phenyl-1,2,4-triazin-3-amine | 78 mg, 23% | FC=1C=C(OC2=C(N=C(N=N2)N)C2=CC=CC=C2)C=CC1 | C15H11FN4O
